US04863503
To a solution of potassium tert-butoxide (1.34 g, 12mmol) in DMF (30 ml) was added dropwise a solution of methyl (5-methylpyrrol-2-yl)oxoacetate (2.0 g, 12mmol) in DMF (5 ml). The reaction mixture was stirred for 2 hours, cooled to 0° C., and then treated dropwise with a solution of benzyl chloride (1.4 ml, 12mmol) in DMF (5 ml). The mixture was stirred for 6 hours, poured into water (150 ml) and then extracted with ether (2×100 ml). The organic layers were washed with brine (2×50 ml), dried and then evaporated under reduced pressure to give an orange oil. Chromatography (eluent diethyl ether-hexane 1:1) gave methyl (1-benzyl-5-methylpyrrol-2-yl)oxoacetate (2.0 g) as a yellow oil, 1H nmr: delta 2.22 (3H,s), 3.87 (3H,s), 5.65 (2H,s), 6.1 (1H,d), 7.9 (2H,d), 7.2-7.4 (4H,m) ppm.

reactant | potassium tert-butoxide | 12mmol, 1.34 g | CC(C)([O-])C.[K+]
reactant | methyl (5-methylpyrrol-2-yl)oxoacetate | 12mmol, 2.0 g | CC1=CC=C(N1)C(C(=O)OC)=O | C8H9NO3
reactant | benzyl chloride | 12mmol, 1.4 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | 150 ml | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether hexane | C(C)OCC.CCCCCC
product | methyl (1-benzyl-5-methylpyrrol-2-yl)oxoacetate | 2.0 g | C(C1=CC=CC=C1)N1C(=CC=C1C)C(C(=O)OC)=O | C15H15NO3
